US08975398B2
N-{4-[1-(2,2-dimethylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide
To 1-(6-chloropyridazin-3-yl)-N-(4-(1-neopentyl-1H-pyrazol-4-yl)phenyl)azetidine-3-carboxamide (0.076 g, 0.179 mmol) was added methylzinc(II) chloride (2.0M in THF) (0.179 ml, 0.358 mmol) and 5 mg of palladium catalyst. The reaction mixture was heated to 60° C. and a thick precipitate developed. N-methylpyrrolidine (0.2 ml) was added and the mixture was heated to 85° C. for 2 hours. The mixture was diluted with dichloromethane and purified by normal phase chromatography to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.11 (s, 1H), 8.04 (s, 1H), 7.82 (s, 1H), 7.61 (d, J=8.7 Hz, 2H), 7.53 (d, J=8.7 Hz, 2H), 7.43 (d, J=9.2 Hz, 1H), 6.99 (d, J=9.1 Hz, 1H), 4.27 (t, J=8.5 Hz, 2H), 4.19 (dd, J=8.2, 6.1 Hz, 2H), 3.90 (s, 2H), 3.75 (ddd, J=17.0, 8.5, 6.0 Hz, 1H), 2.45 (s, 3 H), 0.92 (s, 9 H); MS (ESI(+)) m/e 405 (M+H)+.

reactant | 1-(6-chloropyridazin-3-yl)-N-(4-(1-neopentyl-1H-pyrazol-4-yl)phenyl)azetidine-3-carboxamide | 0.179 mmol, 0.076 g | ClC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C=1C=NN(C1)CC(C)(C)C | C22H25ClN6O
reactant | methylzinc(II) chloride | 0.358 mmol, 2.0M, 0.179 ml | [Cl-].C[Zn+]
reactant | N-methylpyrrolidine | 0.2 ml | CN1CCCC1 | C5H11N
catalyst | palladium | 5 mg | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[1-(2,2-dimethylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide | CC(CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC(=CC1)C)(C)C | C23H28N6O
